US04994452
9-Benzylamino-1-[(2-bromethyl)oxy]-1,2,3,4-tetrahydroacridine
To a suspension of 9-benzylamino-1,2,3,4-tetrahydroacridin-1ol (7.20 g) in 2-bromoethanol (45 ml) was added 40 drops of trifluoroacetic acid. The reaction mixture was stirred at ambient temperature for 20 mins, added to iced sodium bicarbonate solution, and the suspension was extracted with ethyl acetate. The combined organic extracts were washed with water, saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and evaporated. The residue was purified by flash chromatography (ethyl acetate→1% triethylamine/ethyl acetate) to give 6.85 g (71%) of product. Recrystallization from cyclohexane gave the analytical sample, mp 89°-91° C.

reactant | 9-benzylamino-1,2,3,4-tetrahydroacridin-1ol | 7.20 g | C(C1=CC=CC=C1)NC=1C2=CC=CC=C2N=C2CCCC(C12)O | C20H20N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-bromoethanol | 45 ml | BrCCO | C2H5BrO
catalyst | trifluoroacetic acid | 40 drops | FC(C(=O)O)(F)F | C2HF3O2
product | 9-Benzylamino-1-[(2-bromethyl)oxy]-1,2,3,4-tetrahydroacridine | 6.85 g, 71% | C(C1=CC=CC=C1)NC=1C2=CC=CC=C2N=C2CCCC(C12)OCCBr | C22H23BrN2O
